* E:\Work\Projects\IRig\LTSpice\Buffer.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N007 0 AC 1
R1 N006 N007 8k
L1 N002 N006 3h
V2 N001 0 5
R3 N001 N003 1Meg
R4 N003 0 1Meg
Q1 N001 N003 N004 0 2N2222
R5 N004 0 10k
C1 N003 N002 0.1µ
C2 N005 N004 10µ
R2 N005 0 2.2k
.model NPN NPN
.model PNP PNP
.lib C:\Users\parid\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 100 20 20000
.backanno
.end
